* tb_ls_pvt.spice — Worst-case PVT: SS 150C, BVDD=5.4V
* Block 06: Level Shifter
* This is THE critical testbench — if it passes here, it works everywhere.
*
.include design.cir
.lib /home/ubuntu/pdk/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice ss

.option method=gear reltol=1e-4
.temp 150

* Supplies — worst case: minimum BVDD
Vsvdd svdd 0 2.2
Vbvdd bvdd 0 5.4
Vpvdd pvdd 0 5.0

* Load
Cload_up out_up 0 1p
Cload_dn out_dn 0 1p

* Input stimulus
Vin_up in_up 0 PULSE(0 2.2 50n 1n 1n 200n 400n)
Vin_dn in_dn 0 PULSE(0 5.0 50n 1n 1n 200n 400n)

* DUT
Xup in_up out_up bvdd svdd 0 level_shifter_up
Xdn in_dn out_dn pvdd svdd 0 level_shifter_down

.tran 0.1n 800n

* Output level measurements
.meas tran lth_high MAX v(out_up) FROM=100n TO=250n
.meas tran lth_low  MIN v(out_up) FROM=300n TO=450n
.meas tran htl_high MAX v(out_dn) FROM=100n TO=250n
.meas tran htl_low  MIN v(out_dn) FROM=300n TO=450n

* Delay measurements (50% crossings)
.meas tran tplh_up TRIG v(in_up) VAL=1.1 RISE=1 TARG v(out_up) VAL=2.7 RISE=1
.meas tran tphl_up TRIG v(in_up) VAL=1.1 FALL=1 TARG v(out_up) VAL=2.7 FALL=1
.meas tran tplh_dn TRIG v(in_dn) VAL=2.5 RISE=1 TARG v(out_dn) VAL=1.1 RISE=1
.meas tran tphl_dn TRIG v(in_dn) VAL=2.5 FALL=1 TARG v(out_dn) VAL=1.1 FALL=1

* Metastability check at 100ns after edge
.meas tran lth_at_150n FIND v(out_up) AT=150n
.meas tran lth_at_350n FIND v(out_up) AT=350n
.meas tran htl_at_150n FIND v(out_dn) AT=150n
.meas tran htl_at_350n FIND v(out_dn) AT=350n

.control
run

echo "=== tb_ls_pvt results (SS 150C, BVDD=5.4V) ==="

* Delay in ns
let d1 = tplh_up * 1e9
let d2 = tphl_up * 1e9
let d3 = tplh_dn * 1e9
let d4 = tphl_dn * 1e9

echo "tplh_up_ns:" "$&d1"
echo "tphl_up_ns:" "$&d2"
echo "tplh_dn_ns:" "$&d3"
echo "tphl_dn_ns:" "$&d4"

* Max delay
let dmax = d1
if d2 > dmax
  let dmax = d2
end
if d3 > dmax
  let dmax = d3
end
if d4 > dmax
  let dmax = d4
end
echo "delay_max_ns:" "$&dmax"

* Output level margins
let lth_margin = lth_high - (5.4 - 0.2)
let htl_margin = htl_high - (2.2 - 0.2)

echo "lth_out_high_margin_V:" "$&lth_margin"
echo "lth_out_low_V:" "$&lth_low"
echo "htl_out_high_margin_V:" "$&htl_margin"
echo "htl_out_low_V:" "$&htl_low"

* Works at SS 150C?
let works = 1
if lth_high < 5.2
  let works = 0
end
if lth_low > 0.2
  let works = 0
end
if htl_high < 2.0
  let works = 0
end
if htl_low > 0.2
  let works = 0
end
if dmax > 100
  let works = 0
end
echo "works_ss_150c:" "$&works"

* Metastability
let meta = 1
if lth_at_150n < 4.9
  let meta = 0
end
if lth_at_350n > 0.5
  let meta = 0
end
if htl_at_150n < 1.7
  let meta = 0
end
if htl_at_350n > 0.5
  let meta = 0
end
echo "no_metastable:" "$&meta"

quit
.endc

.end
